US08557805B2
N-Methyl-2-{2-[5-({6-[(methylsulfonyl)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetamide
To a solution of {2-[5-({6-[(methylsulfonyl)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid (200 mg) in N,N-dimethylformamide (5 mL) were added 1-hydroxybenzotriazole monohydrate (84 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (105 mg), methylamine hydrochloride (37 mg), and triethylamine (0.080 mL), and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to basic silica gel column chromatography (ethyl acetate:hexane=0:100 to 100:0, volume ratio) and crystallized from acetonitrile. The obtained crystals were recrystallized from ethyl acetate and diethyl ether to give the title compound (148 mg, yield 72%) as white crystals.

reactant | {2-[5-({6-[(methylsulfonyl)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid | 200 mg | CS(=O)(=O)CC1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(=O)O | C25H27N3O7S2
reactant | 1-hydroxybenzotriazole monohydrate | 84 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 105 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | methylamine hydrochloride | 37 mg | Cl.CN
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | triethylamine | 0.080 mL | C(C)N(CC)CC | C6H15N
product | N-Methyl-2-{2-[5-({6-[(methylsulfonyl)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetamide | 148 mg, yield 72% | CNC(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC=1C=NC(=CC1)CS(=O)(=O)C)OC1CCOCC1)=O | C26H30N4O6S2
